US07897631B2
To a 50 mL round-bottomed flask equipped with a magnetic stirbar was added 1-H-1,2,3-triazole (0.192 g, 2.78 mmol) and DMF (10 mL) and then cooled to 0° C. while stirring. Then, sodium hydride (60% dispersion in mineral oil) (0.133 g, 3.33 mmol) is added to the reaction mixture and was slowly allowed to warm to ambient temperature. Then, 1-iodo-4 pentyne (0.647 g, 3.33 mmol) was added dropwise. The reaction mixture was then heated to 80° C. and allowed to stir for 2.5 hours. Water (20 mL) was then added to the reaction mixture and then extracted with ethyl acetate (2×20 mL). The organic phase was dried with sodium sulfate and concentrated de vacuo followed by a purification by column chromatography (ethyl acetate/hexane) to produce 1-Pent-4-ynyl-1H-[1,2,3]triazole (0.349 g, 93%) as a colorless oil. 1H NMR (300 MHz, CDCl3) δ 7.67 (s, 1H), δ 7.59 (s, 1H), δ 4.53 (t, 2H), δ 2.20 (t, 2H), δ 2.17 (m, 2H), δ 2.04 (s, 1H) ppm; 13C NMR (75 MHz, CDCl3) δ 133.9, 123.9, 82.2, 70.4, 48.7, 28.9. 15.7 ppm; HRMS (ESI) calcd for C7H10N3 (M+) 136.0869. found 136.0866.

reactant | 1-H-1,2,3-triazole | 2.78 mmol, 0.192 g | N1N=NC=C1 | C2H3N3
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
reactant | sodium hydride | 3.33 mmol, 0.133 g | [H-].[Na+]
reactant | 1-iodo-4 pentyne | 3.33 mmol, 0.647 g | ICCCC#C | C5H7I
solvent | Water | 20 mL | O | H2O
product | 1-Pent-4-ynyl-1H-[1,2,3]triazole | 0.349 g, 93% | C(CCC#C)N1N=NC=C1 | C7H9N3
